US09169271B2
N-[3-[(4aR,7aS)-2-Amino-4a-fluoro-5,7-dihydro-4H-furo[3,4-d][1,3]oxazin-7a-yl]-4-fluoro-phenyl]-5-cyano-3-fluoro-pyridine-2-carboxamide hydrochloride
Scheme 3, step M, substep 2 (amidation): Dimethylformamide (10 μL, 0.14 mmol) and oxalyl chloride (119 μL, 1.38 mmol) is added to acetonitrile (3.7 mL) and stirred at room temperature for 10 minutes. 5-Cyano-3-fluoro-pyridine-2-carboxylic acid (213 mg, 1.28 mmol) is added and the mixture is stirred for another 10 minutes. This mixture is then added in a single portion to a solution of (4aR,7aS)-7a-(5-amino-2-fluoro-phenyl)-4a-fluoro-5,7-dihydro-4H-furo[3,4-d][1,3]oxazin-2-amine (247 mg, 0.917 mmol) in ethanol (3.7 mL) and water (3.7 mL) heated to 55° C. The reaction mixture is stirred for 1.5 hours and then concentrated under reduced pressure. The residue is diluted with ethyl acetate, washed with ½ saturated sodium bicarbonate solution. The aqueous layer is extracted with ethyl acetate, and the combined organic layers are dried over sodium sulfate, filtered, and concentrated to give a residue, which is purified by silica gel flash chromatography eluting with a gradient of 7 M ammonia in methanol/dichloromethane (1/99) to 7 M ammonia in methanol/dichloromethane (10/90) to give the free base of the title compound (328 mg, 0.786 mmol). The free base is dissolved in dichloromethane (5 mL) and methanol (0.2 mL), and treated with hydrochloric acid (1 M in diethyl ether, 865 μL, 0.865 mmol), and concentrated under reduced pressure. Diethyl ether (3 mL) is added to the residue and concentrated and this is repeated a second time to give the title compound (349 mg, 0.769 mmol, 83.8%). ES/MS (m/z): 418.0 (M+1).

reactant | Dimethylformamide | 0.14 mmol, 10 μL | CN(C=O)C | C3H7NO
reactant | oxalyl chloride | 1.38 mmol, 119 μL | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | 5-Cyano-3-fluoro-pyridine-2-carboxylic acid | 1.28 mmol, 213 mg | C(#N)C=1C=C(C(=NC1)C(=O)O)F | C7H3FN2O2
reactant | (4aR,7aS)-7a-(5-amino-2-fluoro-phenyl)-4a-fluoro-5,7-dihydro-4H-furo[3,4-d][1,3]oxazin-2-amine | 0.917 mmol, 247 mg | NC=1C=CC(=C(C1)[C@@]12N=C(OC[C@@]1(COC2)F)N)F | C12H13F2N3O2
solvent | ethanol | 3.7 mL | C(C)O | C2H6O
solvent | water | 3.7 mL | O | H2O
solvent | acetonitrile | 3.7 mL | C(C)#N | C2H3N
product | N-[3-[(4aR,7aS)-2-Amino-4a-fluoro-5,7-dihydro-4H-furo[3,4-d][1,3]oxazin-7a-yl]-4-fluoro-phenyl]-5-cyano-3-fluoro-pyridine-2-carboxamide hydrochloride | 0.786 mmol, 328 mg | Cl.NC=1OC[C@]2([C@@](N1)(COC2)C=2C=C(C=CC2F)NC(=O)C2=NC=C(C=C2F)C#N)F | InChI=1S/C19H14F3N5O3.ClH/c20-13-2-1-11(26-16(28)15-14(21)3-10(5-23)6-25-15)4-12(13)19-9-29-7-18(19,22)8-30-17(24)27-19;/h1-4,6H,7-9H2,(H2,24,27)(H,26,28);1H/t18-,19-;/m1./s1
